US07875610B2
4-(5,6-dichloro-2-methylamino-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester (Intermediate Compound 1a)
Methyl-(4,5,6-trichloro-pyrimidin-2-yl)-amine (2.8 g, 12.2 mmol), 1-Boc-piperazine (2.27 g, 12.2 mmol), potassium carbonate (0.84 g 6.1 mmol) in water (2.5 ml) and methyl ethyl ketone (50 ml) were refluxed for 12 hours. After cooling to room temperature the precipitate was filtered, and washed with water to give the title compound (2.6 g, 59%), melting point: 205-206° C.

reactant | Methyl-(4,5,6-trichloro-pyrimidin-2-yl)-amine | 12.2 mmol, 2.8 g | CNC1=NC(=C(C(=N1)Cl)Cl)Cl | C5H4Cl3N3
reactant | 1-Boc-piperazine | 12.2 mmol, 2.27 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 6.1 mmol, 0.84 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 2.5 ml | O | H2O
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 4-(5,6-dichloro-2-methylamino-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 2.6 g, 59% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1Cl)Cl)NC | C14H21Cl2N5O2
